US06960586B2
Production of 1-(6-tert-butyldimethylsilyloxy-2-naphthyl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol
6-Bromo-2-tert-butyldimethylsilyloxynaphthalene (60.0 g) was dissolved in THF (600 mL) and the solution was cooled to −70° C. A solution (1.6 M: 111 mL) of n-butyllithium in hexane was slowly added dropwise and the mixture was stirred for 30 min. Then a solution (200 mL) of isopropyl(1-trityl-1H-imidazol-4-yl)ketone (52.1 g) in THF was added dropwise. The mixture was stirred at −70° C. for 30 min. and water was added to stop the reaction. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water and saturated brine, dried and concentrated. The residue was recrystallized from ethyl acetate-hexane to give the title compound (79.5 g) as a colorless powder.

reactant | 6-Bromo-2-tert-butyldimethylsilyloxynaphthalene | 60.0 g | BrC=1C=C2C=CC(=CC2=CC1)O[Si](C)(C)C(C)(C)C | C16H21BrOSi
reactant | n-butyllithium | 1.6 M, 111 mL | C(CCC)[Li]
reactant | isopropyl(1-trityl-1H-imidazol-4-yl)ketone | 200 mL, 52.1 g | C(C)(C)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24N2O
reactant | water | O | H2O
solvent | THF | 600 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(6-tert-butyldimethylsilyloxy-2-naphthyl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 79.5 g | [Si](C)(C)(C(C)(C)C)OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H46N2O2Si
